US07517873B2
To a mixture of 1.0 g (0.0054 mole) of 3-cyclopentylamino-propanoic acid ethyl ester, 0.842 g (0.00542 mole) of iodoethane and 15 mL of dry tetrahydrofuran, at −78 degrees, was added 11.4 mL (0.0114 mole) of a 1M solution of lithium bis(trimethylsilyl)amide in hexanes over 5 minutes. The mixture was stirred for one hour at −78 degrees, then the cooling bath was removed and the mixture stirred overnight at room temperature, and then poured into ice water containing 5 mL of 1M sodium hydroxide solution. The mixture was extracted with ether, and the ether extract washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 0.5125 g of (rac)-2-cyclopentylaminomethyl-butanoic acid ethyl ester, which was used without further purification in subsequent steps.

reactant | 3-cyclopentylamino-propanoic acid ethyl ester | 0.0054 mole, 1.0 g | C(C)OC(CCNC1CCCC1)=O | C10H19NO2
reactant | iodoethane | 0.00542 mole, 0.842 g | ICC | C2H5I
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (rac)-2-cyclopentylaminomethyl-butanoic acid ethyl ester | 0.5125 g | C(C)OC(C(CC)CNC1CCCC1)=O | C12H23NO2
